US08242125B2
DBU (5.48 mL, 36.3 mmol) is added dropwise to a suspension of 4-fluoro-2-methyl-1H-indol-5-ol (5.00 g, 30.3 mmol) and 2,4-dichloropyrimidine (4.60 g, 30.9 mmol) in CH3CN (60 mL) at 0° C. The resulting mixture is warmed to and stirred at 23° C. for 15 h. The reaction mixture is concentrated and the residue is partitioned between 1:1 EtOAc—CH2Cl2 (300 mL) and water (150 mL). The aqueous layer is extracted with EtOAc (2×100 mL). The combined organic layers are washed with brine (100 mL), dried (Na2SO4), and concentrated. The residue is purified by silica gel chromatography (0-100% EtOAc/heptane) to provide 5-(2-chloropyrimidin-4-yloxy)-4-fluoro-2-methyl-1H-indole.

reactant | DBU | 36.3 mmol, 5.48 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-fluoro-2-methyl-1H-indol-5-ol | 30.3 mmol, 5.00 g | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | 2,4-dichloropyrimidine | 30.9 mmol, 4.60 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | 5-(2-chloropyrimidin-4-yloxy)-4-fluoro-2-methyl-1H-indole | ClC1=NC=CC(=N1)OC=1C(=C2C=C(NC2=CC1)C)F | C13H9ClFN3O
